US04038287
Into the reaction apparatus used in Example 1, 160 g of ethyl alcohol, 18.3 g of lysine hydrochloride and 4.0 g of sodium hydroxide were charged. The resulting mixture was heated, refluxing the solvent, while being stirred, and was kept for 3 hours. The resultant product was cooled to room temperature and the by-product sodium chloride was filtered off therefrom. The solvent was distilled off from the obtained product to obtain 14.3 g of lysine in a syrup state. The lysine obtained, 15.8 g of allantoin and 150 ml of water were charged into the apparatus.

reactant | lysine hydrochloride | 18.3 g | Cl.N[C@@H](CCCCN)C(=O)O
reactant | sodium hydroxide | 4.0 g | [OH-].[Na+]
solvent | ethyl alcohol | 160 g | C(C)O | C2H6O
product | lysine | 14.3 g | N[C@@H](CCCCN)C(=O)O | C6H14N2O2
